US06492416B1
To a stirred solution of 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (170 mg) in 30 ml toluene and 10 ml ethanol, were added 25 mg of tetrakis(triphenylphosphine)palladium(0), 10 ml of saturated aqueous sodium carbonate, and 130 mg of 3-acetylbenzeneboronic acid. The reaction solution was stirred at 90° C. for 12 hours. Then the solvent was removed under reduced pressure. The resulting residue was extracted with water and dichloromethane. The organic layer was concentrated in vacuo and the resulting residue was separated by column chromatography (hexane/ethylacetate=2:1) to afford 100 mg of 4-(3-acetylphenyl)-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 189-190° C. NMR: δ1.60 (s, 6H), 2.59 (s, 3H), 3.07 (s, 3H), 7.48 (m, 2H), 7.82 (d, J=8.7 Hz, 2H), 7.90 (m, 2H), 7.94 (d, J=8.4 Hz, 2H). IR (cm−1): 1690, 1620, 1589, 1149, 958, 770.

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 170 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-acetylbenzeneboronic acid | 130 mg | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-acetylphenyl)-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 100 mg | C(C)(=O)C=1C=C(C=CC1)C=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C21H20O5S
